US09376422B2
Step 4: Synthesis of methyl 5-chloro-2-ethyl-3-nitrobenzoate
A solution of methyl 5-chloro-2-ethylbenzoate (1.08 g, 5.4 mmol) in concentrated sulphuric acid (7.0 ml) was cooled to −5° C. in an acetone/ice bath. A mixture of 70% nitric acid (0.45 ml, 7.1 mmol) and concentrated sulphuric acid (0.5 ml) was added dropwise to the reaction mixture at −5° C. over 15 minutes. The resulting pale yellow reaction mixture was stirred at −5° C. for 1 hour before being poured onto ice (100 ml) and extracted with CH2Cl2 (3×20 ml). The combined organic phases were washed with deionized water (20 ml), brine (20 ml), dried over Na2SO4, filtered and concentrated in-vacuo. The resulting oil was added to a solution containing methanol (25 ml) and thionyl chloride (0.75 ml) at 0° C. Following addition, the mixture was heated under gentle reflux for 6 hours, before cooling to room temperature and concentrating in-vacuo to give the title compound (1.2 g) as an orange oil which was used without further purification in the next step.

reactant | methyl 5-chloro-2-ethylbenzoate | 5.4 mmol, 1.08 g | ClC=1C=CC(=C(C(=O)OC)C1)CC | C10H11ClO2
reactant | nitric acid | 7.1 mmol, 0.45 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 7.0 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
product | methyl 5-chloro-2-ethyl-3-nitrobenzoate | 1.2 g | ClC=1C=C(C(=C(C(=O)OC)C1)CC)[N+](=O)[O-] | C10H10ClNO4
